US06809110B2
In analogy to the procedure described in example 17 c], (2S,3R)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester was treated with triethylsilane in trifluoroacetic acid to yield (2S)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-propionic acid methyl ester as colorless liquid.

reactant | (2S,3R)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-3-hydroxy-propionic acid methyl ester | COC([C@H]([C@H](O)C1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)OCC)=O | C21H26O5
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-3-(4-benzyloxy-2,6-dimethyl-phenyl)-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)OCC)=O | C21H26O4
